US07196090B2
Cyclopentyl-{5-[(3-ethoxy-2,6-difluoro-phenylimino)-methyl]-2-methylsulfanyl-pyrimidin-4-yl}-amine
To a solution of the 8.22 g (34.7 mmol) of 4-cyclopentylamino-2-methylsulfanyl-pyrimidine-5-carbaldehyde in 170 mL of toluene was added 6.00 g 34.7 mmol, 1 equivalent) of 3-ethoxy-2,6-difluoro-phenylamine and 2.01 g (8.66 mmol, 0.25 equivalents) of camphorsulfonic acid. The reaction was warmed to reflux and the formed water was removed with the aid of a Dean-Stark trap. After reacting for 48 hours, the reaction was concentrated in vacuo. The residue was dissolved in dichloromethane and neutralized with a saturated aqueous solution of sodium bicarbonate. The resulting emulsion was filtered through fiberglass filter paper. The methylene chloride layer was isolated from the filtrate, then washed first with a saturated aqueous solution of sodium bicarbonate, followed by a saturated aqueous solution of sodium chloride. The methylene chloride layer was dried with magnesium sulfate and concentrated in vacuo. The residue was dissolved in dichloromethane, stirred with silica gel, and concentrated in vacuo. The residue was placed in the sample injection module of a Biotage FLASH 75 chromatographic apparatus. Chromatography of the crude material on a Biotage 500 g silica gel column with 4:1 hexane/ethyl acetate gave 11.1 g (82%) of the title compound as a solid: mp 136° C.–141° C. MS (APCI) (m+1)/z 393.2 Analysis calculated for C19H22F2N4SO: C, 58.15; H, 5.65; N, 14.28. Found: C, 58.22; H, 5.68; N, 14.26.

reactant | 4-cyclopentylamino-2-methylsulfanyl-pyrimidine-5-carbaldehyde | 34.7 mmol, 8.22 g | C1(CCCC1)NC1=NC(=NC=C1C=O)SC | C11H15N3OS
reactant | 3-ethoxy-2,6-difluoro-phenylamine | C(C)OC=1C(=C(C(=CC1)F)N)F | C8H9F2NO
reactant | camphorsulfonic acid | 8.66 mmol, 2.01 g, 0.25 equivalents | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
solvent | toluene | 170 mL | C1(=CC=CC=C1)C | C7H8
product | Cyclopentyl-{5-[(3-ethoxy-2,6-difluoro-phenylimino)-methyl]-2-methylsulfanyl-pyrimidin-4-yl}-amine | 11.1 g, 82% | C1(CCCC1)NC1=NC(=NC=C1C=NC1=C(C(=CC=C1F)OCC)F)SC | C19H22F2N4OS
